data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202200470.json
{"doi": "10.1002_adsc.202200470", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical synthesis of iodohydrins (and ethers) from alkenes using ammonium iodide as a non-toxic iodine source via an acetonitrile-stabilized iodonium intermediate.", "mechanism_family": ["mediator_anodic", "cation_initiated", "carbocation"], "electrochemical_role": "Anodic oxidation of iodide (I-) to iodine radical and then to a CH3CN-stabilized I+ (iodonium-like) species; cathodic reduction of H+ to H2", "key_intermediates": [{"name": "iodine radical (from first anodic oxidation of I-)", "smiles": "[I]", "role": "transient"}, {"name": "acetonitrile-stabilized iodonium (CH3CNI+) equivalent to I+", "smiles": null, "role": "reactive"}, {"name": "alkene-derived iodonium ion (intermediate A)", "smiles": null, "role": "reactive"}, {"name": "open carbocation (from iodonium ring-opening, invoked for norbornene rearrangement)", "smiles": null, "role": "transient"}, {"name": "molecular iodine I2 (possible in situ)", "smiles": "II", "role": "off_pathway"}], "electron_flow": "At the anode, I- is oxidized in two successive one-electron steps to give an acetonitrile-stabilized I+ species, which adds to the alkene to form an iodonium ion; Markovnikov nucleophilic attack by water (or alcohol) delivers the iodohydrin/ether, while 2H+ are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "molecular iodine (I2) in place of NH4I", "smiles": "II", "purpose": "intermediate_trap", "observation": "Gave the iodohydrin in moderate yield (36%), lower than with NH4I, indicating in-situ I2 cannot be ruled out but is less productive than CH3CN-stabilized I+"}, {"name": "norborn-2-ene (radical clock / cation probe)", "smiles": "C1CC2CC1C=C2", "purpose": "radical_clock", "observation": "Gave rearranged products 39 and 40 in 64:36 ratio, consistent with a cationic (iodonium/carbocation) intermediate rather than a radical pathway"}, {"name": "current interruption (45 min then 24 h without current)", "smiles": null, "purpose": "other", "observation": "No additional product formed, ruling out post-electrolysis chemistry from cathodically released metal salts"}, {"name": "NH4Br control", "smiles": "[NH4+].[Br-]", "purpose": "redox_probe", "observation": "Formed bromohydrin; CV showed similar oxidation waves to NH4I"}, {"name": "NH4Cl control", "smiles": "[NH4+].[Cl-]", "purpose": "redox_probe", "observation": "No reaction; CV showed oxidation at higher potential, explaining non-reactivity"}, {"name": "styrene CV alone and with NH4I", "smiles": "C=Cc1ccccc1", "purpose": "redox_probe", "observation": "No oxidation/reduction of styrene up to +1.2 V; adding NH4I gave no current increase, ruling out direct styrene oxidation / iodine-mediated styrene oxidation"}], "evidence_types_used": ["cyclic_voltammetry", "radical_clock", "intermediate_trap_other", "on/off_light_or_current", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Authors cannot fully exclude direct reaction of in-situ generated I2 with alkene, but argue CH3CN-stabilized I+ pathway is dominant based on lower yield with I2 and CV data. Stereochemistry of product 15 and norbornene rearrangement (39/40) support an iodonium/carbocation pathway rather than a radical mechanism."}
